US09056859B2
TiCl4 (76 g, 0.4 mol) was added over a period of 10 min to an ice-cooled mixture of 2-(2-bromophenyl)ethanol (20 g, 0.1 mol) and ethyl bis(ethyloxy)acetate (21.1 g, 0.120 mol) in 120 mL of CH3NO2. After stirring for 10 min, the ice bath was removed and the mixture was allowed to stire at room temperature overnight. The mixture was poured into ice/aqueous 1N HCl. Extracted with DCM and backwashed with 1HCl and brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified with silica gel chromatography to give the product methyl 5-bromo-3,4-dihydro-1H-isochromene-1-carboxylate. 1H-NMR (400 MHz, CDCl3) δ 7.42˜7.47 (m, 1H), 7.29 (d, J=8.0 Hz, 1H), 7.02 (t, J=8.0 Hz, 1H), 5.22 (s, 1H), 4.16˜4.26 (m, 3H), 3.95˜4.01 (m, 1H), 3.46˜3.63 (m, 1H), 2.99˜3.03 (m, 1H), 1.24 (t, J=8.0 Hz, 3H).

reactant | 2-(2-bromophenyl)ethanol | 0.1 mol, 20 g | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | ethyl bis(ethyloxy)acetate | 0.120 mol, 21.1 g | C(C)OC(C(=O)OCC)OCC | C8H16O4
solvent | CH3NO2 | 120 mL | C[N+](=O)[O-] | CH3NO2
catalyst | TiCl4 | 0.4 mol, 76 g | Cl[Ti](Cl)(Cl)Cl
product | methyl 5-bromo-3,4-dihydro-1H-isochromene-1-carboxylate | BrC1=C2CCOC(C2=CC=C1)C(=O)OC | C11H11BrO3
